US06967254B2
Step C: 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-2-methyl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
The solution of 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-2-methyl-5-pyridin-4-yl-pyrazolidin-3-one 0.16 g in toluene 20 mL and DMF 2 mL was treated with phenyltriethylammonium tribromide 0.22 g at room temperature, The reaction mixture was refluxed for 4 h. The reaction was quenched with sat. Na2SO3 25 mL at 0° C. The reaction mixture was extracted with dichloromethane, 3×25 mL. The combined organic phase was washed with brine, dried over anhydrous Na2SO4. After purification by flash chromatography, the title compound was obtained as light yellow solid 80 mg. MS (ES+): 416 (M+H)+.

reactant | 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-2-methyl-5-pyridin-4-yl-pyrazolidin-3-one | 0.16 g | C1(CCCCC1)CN1N(C(C(C1C1=CC=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O)C | C22H25Cl2N3O
reactant | phenyltriethylammonium tribromide | 0.22 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](CC)(CC)CC.C1(=CC=CC=C1)[N+](CC)(CC)CC.C1(=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Cyclohexylmethyl-4-(3,4-dichloro-phenyl)-2-methyl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | C1(CCCCC1)CN1N(C(C(=C1C1=CC=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O)C | C22H23Cl2N3O
